US07741320B2
Step B: 4,5-dichloro-2-cyclopropylaminobenzenesulphonamide
A solution of 4,5-dichloro-2-fluorobenzenesulphonamide (3 g) in dioxane (30 mL) to which cyclopropylamine (3 mL) has been added is heated at 100-110° C. in a hermetically closed vessel for 24 hours. The solvent and the excess of amine are removed by distillation under reduced pressure and the residue is dissolved in methanol (20 mL). The methanolic solution is cooled on an ice bath, and water (60 mL) is added. The precipitate obtained (the title product) is collected by filtration, washed with water and dried. It is used in the following Step without being otherwise purified.

reactant | 4,5-dichloro-2-fluorobenzenesulphonamide | 3 g | ClC1=CC(=C(C=C1Cl)S(=O)(=O)N)F | C6H4Cl2FNO2S
reactant | cyclopropylamine | 3 mL | C1(CC1)N | C3H7N
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4,5-dichloro-2-cyclopropylaminobenzenesulphonamide | ClC1=CC(=C(C=C1Cl)S(=O)(=O)N)NC1CC1 | C9H10Cl2N2O2S
